US04985427
Dihydro-1-(4-fluorophenyl)-4-methyl-1,2,4-triazine-3,5-(2H,4H)-dione
A mixture of methyl [1-(4-fluorophenyl)hydrazino]acetate (2.12 g) and methyl isocyanate (1.63 ml) in acetonitrile (20 ml) was heated under reflux for 3 h. The solvent was removed in vacuo and the residual oil was taken into methanol (20 ml) and treated with a solution of sodium methoxide (from sodium (556 mg) in methanol (30 ml)). After 1 h at 20° the solution was neutralised with acetic acid and the solvent was removed in vacuo. The residue was taken into ethyl acetate (100 ml), washed with pH 6 phosphate buffer (100 ml), dried and evaporated. Crystallisation of the residue from System B gave the title compound (1.10 g), m.p. 205°-206°.

reactant | methyl [1-(4-fluorophenyl)hydrazino]acetate | 2.12 g | FC1=CC=C(C=C1)N(N)CC(=O)OC | C9H11FN2O2
reactant | methyl isocyanate | 1.63 ml | CN=C=O | C2H3NO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Dihydro-1-(4-fluorophenyl)-4-methyl-1,2,4-triazine-3,5-(2H,4H)-dione | 1.10 g | FC1=CC=C(C=C1)N1NC(N(C(C1)=O)C)=O | C10H10FN3O2
